US06316445B1
(S)-N-methyl-N-(2-(4-fluorophenyl)-4-oxobutyl)-2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)benzamide
Combine (S)-N-methyl-N-(2-(4-fluorophenyl)pent-4-enyl)-2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)benzamide (10 mmol), acetone/t-butanol/water (2/1/1, 56 mL), and a solution of N-methylmorpholine N-oxide (2.6 mL, 50% in water, 12.7 mmol). Add a solution of osmium tetraoxide (2.6 mL, 4% in water, 0.44 mmol). After 3 hours, evaporate in vacuo to remove most of the acetone and partition the evaporated reaction mixture between dichloromethane and an aqueous 10% solution of sodium thiosulfate. Separate the layer, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Combine the residue, tetrahydrofuran (70 mL), and water (17.5 mL). Add sodium meta-periodate (3.2 g). After 1.5 hours, filter the reaction mixture, rinse the solids with dichloromethane, and evaporate the filtrate give the title compound.

reactant | (S)-N-methyl-N-(2-(4-fluorophenyl)pent-4-enyl)-2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)benzamide | 10 mmol | CN(C(C1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC)=O)C[C@@H](CC=C)C1=CC=C(C=C1)F | C22H21F4N5O2
reactant | N-methylmorpholine N-oxide | 12.7 mmol, 2.6 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium meta-periodate | 3.2 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetraoxide | 0.44 mmol, 2.6 mL | [Os](=O)(=O)(=O)=O
solvent | water | 17.5 mL | O | H2O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | acetone t-butanol water | 56 mL | CC(=O)C.C(C)(C)(C)O.O
product | (S)-N-methyl-N-(2-(4-fluorophenyl)-4-oxobutyl)-2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)benzamide | CN(C(C1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC)=O)C[C@@H](CC=O)C1=CC=C(C=C1)F | C21H19F4N5O3
